US07939533B2
(S)-Dimethyl-carbamic Acid 1-[5-{[2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4-(4-fluoro-2-methyl-phenyl)-pyridin-2-yl]-pyrrolidin-2-ylmethyl Ester
To a solution of 44 mg (0.33 mmol) 1,1,3,3-tetramethyl-2-thiourea in 1.5 ml N,N-dimethylformamide were added 0.027 ml iodomethane at room temperature. After stirring for 50 min. 0.20 g (0.33 mmol) (S)-2-(3,5-bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-methyl-phenyl)-6-(2-hydroxymethyl-pyrrolidin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide and a suspension of 45 mg (0.90 mmol) sodium hydride (ca. 50% dispersion in mineral oil) in 0.5 ml n-hexane were added. After stirring at room temperature for 1 h the reaction mixture was diluted with water and extracted with three portions of tert-butyl methyl ether. The combined organic extracts were dried over sodium sulphate and concentrated. Flash column chromatography gave 90 mg (40%) of the title compound as an off-white solid.

reactant | 1,1,3,3-tetramethyl-2-thiourea | 0.33 mmol, 44 mg | CN(C(=S)N(C)C)C | C5H12N2S
reactant | iodomethane | 0.027 ml | IC | CH3I
reactant | (S)-2-(3,5-bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-methyl-phenyl)-6-(2-hydroxymethyl-pyrrolidin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide | 0.33 mmol, 0.20 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1[C@@H](CCC1)CO)(C)C)(F)F | C30H30F7N3O2
reactant | sodium hydride | 0.90 mmol, 45 mg | [H-].[Na+]
reactant | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
solvent | n-hexane | 0.5 ml | CCCCCC | C6H14
solvent | water | O | H2O
product | (S)-Dimethyl-carbamic Acid 1-[5-{[2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4-(4-fluoro-2-methyl-phenyl)-pyridin-2-yl]-pyrrolidin-2-ylmethyl Ester | 90 mg, 40% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C=1C(=CC(=NC1)N1[C@@H](CCC1)COC(N(C)C)=O)C1=C(C=C(C=C1)F)C)C)(C)C)(F)F | C33H35F7N4O3
